US07691882B2
3-(3-(4-(4-Chloro-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (3 mL) solution of 4-(5-(2,6-diamino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol (30 mg, 0.11 mmol) described in Manufacturing Example 18-1-1 was added a 5 N sodium hydroxide aqueous solution (21.2 μL, 0.11 mmol), which was dissolved by irradiating ultrasonic wave for 1 minute. The reaction solution was concentrated under a reduced pressure, which gave a white solid. An N,N-dimethylformamide (1 mL) solution of 4-chloro-2-chloromethyl-pyridine (34.3 mg, 0.21 mmol) described in Manufacturing Example 51-1-2 was added to a suspension of this solid in N,N-dimethylformamide (1 mL), which was stirred for 1 hour at 60° C. This reaction mixture was cooled to room temperature and then partitioned into water and ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:2), and then further purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain the title compound (5.1 mg, 12%) as a trifluoro acetic acid salt.

reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | 4-(5-(2,6-diamino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol | 0.11 mmol, 30 mg | NC1=NC(=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)O)N | C15H14N4O2
reactant | sodium hydroxide | 0.11 mmol, 5 N, 21.2 μL | [OH-].[Na+]
reactant | 4-chloro-2-chloromethyl-pyridine | 0.21 mmol, 34.3 mg | ClC1=CC(=NC=C1)CCl | C6H5Cl2N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-(3-(4-(4-Chloro-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 5.1 mg, 12% | ClC1=CC(=NC=C1)COC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C21H18ClN5O2
